US06040321
N-[5-(Acetylthio)-2-thiazolyl]acetamide (0.050 g, 0.23 mmol) was dissolved in dry THF (10 ml) and here potassiumtert-butoxide (1.0 M solution in THF, 0.25 ml, 0.25 mmol) was added to the mixture. The reaction mixture was stirred at rt for 15 min., and 2-(bromomethyl)-4,5-dimethyloxazole (0.064 g, 0.34 mmol) was added to this mixture. The reaction mixture was stirred at rt for 3 h and saturated aqueous NaHCO3 solution (20 mL) was added to the mixture. The organic layer was separated and the aqueous layer was extracted with dichloromethane (3×20 mL). The combined organic layers was concentrated. The residue was purified by flash column chromatography (SiO2 ; methanol:dichloromethane/1:20) to afford N-[5-[[(4,5-dimethyl-2-oxazolyl)methyl]thio]-2-thiazolyl]acetamide (15 mg, 23%) as a yellow solid.

reactant | N-[5-(Acetylthio)-2-thiazolyl]acetamide | 0.23 mmol, 0.050 g | C(C)(=O)SC1=CN=C(S1)NC(C)=O | C7H8N2O2S2
reactant | potassiumtert-butoxide | 0.25 mmol, 1.0 M, 0.25 ml | CC(C)([O-])C.[K+]
reactant | 2-(bromomethyl)-4,5-dimethyloxazole | 0.34 mmol, 0.064 g | BrCC=1OC(=C(N1)C)C | C6H8BrNO
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-[5-[[(4,5-dimethyl-2-oxazolyl)methyl]thio]-2-thiazolyl]acetamide | 15 mg, 23% | CC=1N=C(OC1C)CSC1=CN=C(S1)NC(C)=O | C11H13N3O2S2
